US04197110
2nd part: By operating as in the second part of Example 13, but using 23.5 g (0.15 mole) of 2-dichloromethyl-1,3-oxazolidine, 18 g (0.18 mole) of triethylamine and 24.3 g (0.165 mole) of dichloroacetyl chloride in 200 ml of chloroform, after the removal of the chloroform by distillation under vacuum, 39.4 g (yield 98%) of crude 2-dichloromethyl-3-dichloroacetyl-1,3-oxazolidine is obtained.

reactant | 2-dichloromethyl-1,3-oxazolidine | 0.15 mole, 23.5 g | ClC(C1OCCN1)Cl | C4H7Cl2NO
reactant | triethylamine | 0.18 mole, 18 g | C(C)N(CC)CC | C6H15N
reactant | dichloroacetyl chloride | 0.165 mole, 24.3 g | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-dichloromethyl-3-dichloroacetyl-1,3-oxazolidine | 39.4 g, yield 98% | ClC(C1OCCN1C(C(Cl)Cl)=O)Cl | C6H7Cl4NO2
